US07109360B1
11β-Fluoro-3-hydroxy-7α-methylestra-1,3,5(10)-trien-17-one
8.3 g (27.2 mmol) of 11β-fluoro-7α-methylestr-4-ene-3,17-dione in 260 ml of acetonitrile is mixed with 7.0 g (31.3 mmol) of copper(II) bromide, and the reaction mixture is stirred for 7 hours at room temperature. For working-up, the reaction solution is diluted with ethyl acetate, the organic phase is washed with aqueous ammonium chloride solution, sodium bicarbonate solution, and finally with water and dried on sodium sulfate. The crude product is chromatographed on silica gel (toluene-ethyl acetate, gradient of up to 7:3), yield 3.3 g (40%), [α]D+166.80 (c 0.5 methanol).

reactant | 11β-fluoro-7α-methylestr-4-ene-3,17-dione | 27.2 mmol, 8.3 g | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)C)=O | C19H25FO2
solvent | acetonitrile | 260 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(II) bromide | 31.3 mmol, 7.0 g | [Cu](Br)Br
product | 11β-Fluoro-3-hydroxy-7α-methylestra-1,3,5(10)-trien-17-one | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)C)O | C19H23FO2
